US08895583B2
Step A. tert-butyl 3-(4-bromo-2-methylphenyl)azetidine-1-carboxylate
To a vial with zinc dust (2.77 g, 42.4 mmol) in anhydrous THF (15 mL) under nitrogen was added 1,2-dibromoethane (0.24 mL, 2.83 mmol), then the suspension was stirred at 65° C. for 3 min. After cooling to ambient temperature, chloro(trimethyl)silane (0.36 mL, 2.83 mmol) was added and the mixture was stirred at room temperature for 30 min. Then, a solution of tert-butyl 3-iodoazetidine-1-carboxylate (8.00 g, 28.3 mmol) in THF (10 mL) was added and the mixture was stirred for 45 min. P(2-furyl)3 (1.31 g, 5.7 mmol) and tris(dibenzylidene acetone)dipalladium (0) (2.59 g, 2.83 mmol) were added to a separate vial, dissolved in THF (5 mL) and stirred under nitrogen at ambient temperature for 10 min, then the mixture and 5-bromo-2-iodotoluene (4.84 mL, 33.9 mmol) in THF (10 mL) were added to the organozine reagent solution. The mixture was then placed in a 65° C. oil bath for 2 h. The reaction mixture was allowed to cool to room temperature and then was poured into water. The mixture was extracted with EtOAc, and the organic layer was concentrated in vacuo. Purification by chromatography on silica gel (0 to 50% EtOAc in hexanes, then 50 to 100% EtOAc in hexanes) provided the title compound: LCMS m/z 271.8 [M-t-Bu+2H]+; 1H NMR (500 MHz, acetone-d6) δ 7.40-7.30 (m, 3 H),4.23 (br, 2 H),3.99 (m, 1 H),3.91 (m, 2 H),2.21 (s, 3 H),1.42 (s, 9 H).

reactant | 1,2-dibromoethane | 2.83 mmol, 0.24 mL | BrCCBr | C2H4Br2
reactant | chloro(trimethyl)silane | 2.83 mmol, 0.36 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | tert-butyl 3-iodoazetidine-1-carboxylate | 28.3 mmol, 8.00 g | IC1CN(C1)C(=O)OC(C)(C)C | C8H14INO2
reactant | P(2-furyl)3 | 5.7 mmol, 1.31 g | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | 5-bromo-2-iodotoluene | 33.9 mmol, 4.84 mL | BrC=1C=CC(=C(C1)C)I | C7H6BrI
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | zinc | 42.4 mmol, 2.77 g | [Zn] | Zn
catalyst | tris(dibenzylidene acetone)dipalladium (0) | 2.83 mmol, 2.59 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
product | tert-butyl 3-(4-bromo-2-methylphenyl)azetidine-1-carboxylate | BrC1=CC(=C(C=C1)C1CN(C1)C(=O)OC(C)(C)C)C | C15H20BrNO2
